US06177440B1
A suspension of 5-carbomethoxy-1,2-dihydro-2-methyl-9H-carbazol-4(3H)-one (1.0 g, 3.89 mM), 3-fluorobenzyl bromide (0.48 ml, 3.97 mM), and potassium carbonate (1.07 g, 7.78 mM) in 20 mL DMF was stirred at room temperature for 22 hours. The mixture was diluted with EtOAc and 1N HCl. The layers were separated and the aqueous extracted with EtOAc. The combined EtOAc layers were extracted with 1N HCl, water, then brine. After drying (Na2SO4), evaporation in vacuo afforded 1.38 g (97%) of the 9-[(3-fluorophenyl)methyl]-5-carbomethoxy-2-methyl-1,2-dihydrocarbazol-4(3H)-one. 1H NMR (CDCl3) δ 7.4-7.2 (m, 5H), 7.0 (m, 1H), 6.75 (m, 2H), 5.4 (s, 2H), 4.05 (s, 3H), 3.0 (m, 1H), 2.65-2.45 (m, 3H), 2.3 (dd, J=15 and 9 Hz, 1H), 1.1 (d, J=7 Hz, 3H). MS (ES) m/e 334, 366.

reactant | 5-carbomethoxy-1,2-dihydro-2-methyl-9H-carbazol-4(3H)-one | 3.89 mM, 1.0 g | C(=O)(OC)C1=C2C=3C(CC(CC3NC2=CC=C1)C)=O | C15H15NO3
reactant | 3-fluorobenzyl bromide | 3.97 mM, 0.48 ml | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | potassium carbonate | 7.78 mM, 1.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | 9-[(3-fluorophenyl)methyl]-5-carbomethoxy-2-methyl-1,2-dihydrocarbazol-4(3H)-one | 1.38 g, 97% | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CC(CC12)C)=O)C(=O)OC | C22H20FNO3
